Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Status post right thyroid lobectomy for papillary thyroid 
carcinoma, multicentric.

 
Major Surgical or Invasive Procedure:
Completion (secondary left thyroidectomy).

 
History of Present Illness:
This patient had recently undergone the right thyroid lobectomy 
at which time multifocal papillary carcinoma was identified and 
the patient was offered the option of observation or completion, 
and he chose completion.

 
Past Medical History:
PMH: melanoma, asthma, eosinophilic esophagitis, HLD 

PSH: melanoma excision (___), tonsillectomy, wisdom teeth 
extraction, R thyroidectomy ___, ___

 
Physical Exam:
GEN: AOx3, NAD
HEENT: NCAT, EOMI, anicteric. Incision to neck with steristrips 
slightly stained with old blood, gauze c/d/I, No swelling or 
signs of hematoma at this time. No voice hoarseness. 
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no 
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___

 
Pertinent Results:
___ 07:33AM BLOOD Calcium-7.9*
 
Brief Hospital Course:
___ s/p right thyroidectomy ___ with PTC now s/p 
completion left thyroidectomy and reimplantation of parathyroid. 
Patient tolerated the procedure. Refer to operative report 
dictated separately.
Postoperatively patient doing well, complaining of mild pain 
around the incision. no nausea, vomiting, SOB, CP. POD #1 
calcium 7.9, no signs and symptoms of hypocalcemia. Patient was 
started on calcium supplement, vitamin D along with thyroid 
hormone replacement. Patient reports pain with swallowing and 
taking oxycodone and Tylenol as needed. His diet was advanced as 
tolerated and he was voiding and ambulating independently. 
patient was discharged home with appropriate follow-up 
instructions.
 
Medications on Admission:
Meds: ProAir prn, fluticasone 2 sprays qhs, simvastatin 20', 
omeprazole 20'', D3 1000u'  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Calcitriol 0.5 mcg PO BID Duration: 2 Days 
calcitriol 0.5BIDx2d ___, 0.5daily x2d ___, 0.25 
daily x10d ___. 
RX *calcitriol 0.5 mcg 1 capsule(s) by mouth twice a day Disp 
#*3 Capsule Refills:*0 
3.  Calcitriol 0.5 mcg PO DAILY Duration: 2 Days 
taper dose 0.5 daily x2d ___ 
RX *calcitriol 0.5 mcg 1 capsule(s) by mouth once a day Disp #*2 
Capsule Refills:*0 
4.  Calcitriol 0.25 mcg PO DAILY Duration: 10 Days 
taper dose, take 0.25 mcg daily x10d ___. 
RX *calcitriol 0.25 mcg 1 capsule(s) by mouth once a day Disp 
#*10 Capsule Refills:*0 
5.  Calcium Carbonate 1500 mg PO TID 
Buy Tums over the counter & take 3 chewable tablets 3 times a 
day.For symptoms, chew ___ Tums.  
6.  Cepacol (Sore Throat Lozenge) ___ LOZ PO Q2H:PRN sore throat 
 
7.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
8.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
Patient may request partial fill of this medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4H:PRN Disp #*20 Tablet 
Refills:*0 
9.  Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea, wheezing  
10.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
11.  Levothyroxine Sodium 137 mcg PO DAILY  
12.  Omeprazole 20 mg PO BID  
13.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Status post right thyroid lobectomy for papillary thyroid 
carcinoma, multicentric.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the inpatient general surgery unit 
overnight for observation following your completion left 
thyroidectomy. The following is a summary of your discharge 
instructions: 

Diet: You may resume your regular home diet without restriction. 
You 
should stick to foods that do not upset your stomach. You may 
need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Medications:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You may take acetaminophen 
(Tylenol)or ibuprofen (Motrin) as directed for pain. 

You will be discharged on levothyroxine, take as prescribed. 
Additionally, please take Calcium supplement(Tums),2 chewable 
tablets three times a day. Also take vitamin D (calcitriol) take 
0.5 mcg twice a day for 2 ___ & ___ 0.5 mcg daily 
for 2 days ___ & ___, then 0.25 mcg daily for 10 days ___- 
___.

Symptoms of low calcium:
Monitor for symptoms of low Calcium such as numbness or tingling 
around mouth,fingertips or muscle cramps in your legs. If you 
develop symptoms immediately take additional TUMS ___ chewable 
tablets in between your scheduled dose for relief of symptoms. 
If your symptoms persists then call ___ phone 
for advice or if you have severe symptoms go to the emergency 
room. 

Wound care:You may shower normally. Allow warm soapy water to 
run over the wound, rinse and pat dry gently. There is no need 
to keep a 
dressing over the wound. Do not apply creams or ointments. Do 
not submerge the wound in a swimming pool or bath until cleared 
at your follow up visit. Do  not pull off the steri strip 
tapes--these will fall off by themselves over the next ___ 
weeks.

Thank you for allowing us to participate in your care.
Your ___ Care Team

 
Followup Instructions:
___